simple differential pair
vcc 7 0 12
vee 8 0 -12
vin 1 0 ac 1
rs1 1 2 1k
rs2 6 0 1k
q1 3 2 4 mod1
q2 5 6 4 mod1
rc1 7 3 1k
rc2 7 5 10k
re 4 8 10k
.MODEL mod1 npn level=1 bf=50 vaf=50 is=1.E-12 RB=100 CJC=.5PF TF=.6NS
.END